US05171354
0.55 g of sodium hydride dispersion (50% in oil) and then 2.20 g of 2-(4-fluorophenoxy)ethyl bromide are added with stirring to a solution of 2.81 g of 2',4'-dichloro-2-(3-pyridyl)acetophenone oxime in 20 ml of dimethylformamide. The reaction mixture is heated to 100° C. and stirred at this temperature for 1 hour. It is then cooled to room temperature and poured onto ice. The aqueous mixture is extracted with methylene chloride, and the organic phase is washed twice with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. After chromatography on silica gel using n-hexane/ethyl acetate (7:3) as the eluent, 2',4'-dichloro-2-(3-pyridyl)acetophenone O-[2-(4-fluorophenoxy)ethyl]oxime is obtained as an E/Z isomer mixture in the form of a slightly yellow oil.

reactant | sodium hydride | 0.55 g | [H-].[Na+]
reactant | 2-(4-fluorophenoxy)ethyl bromide | 2.20 g | FC1=CC=C(OCCBr)C=C1 | C8H8BrFO
reactant | 2',4'-dichloro-2-(3-pyridyl)acetophenone oxime | 2.81 g | ClC1=C(C=CC(=C1)Cl)C(CC=1C=NC=CC1)=NO | C13H10Cl2N2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2',4'-dichloro-2-(3-pyridyl)acetophenone O-[2-(4-fluorophenoxy)ethyl]oxime | FC1=CC=C(OCCON=C(CC=2C=NC=CC2)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C21H17Cl2FN2O2
